US06613743B2
A mixture of (3R,3aS, 6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[(l-ethylpropoxy)amino]-2-hydroxypropylcarbamate (200 mg, 0.474 mmol), 4-benzyloxybenzenesulphonyl chloride (134 mg, 0.474 mmol), diisoproylethylamine (0.083 mL, 0.474 mmol) and dimethylaminopyridine (1 mg) in anhydrous tetrahydrofuran (3 mL) was stirred at ambient temperature over 16 hours under an Argon atmosphere. The reaction mixture was warmed to 55° C. and an additional quantity of dimethylaminopyridine (˜2 mg) was added. After stirring for 2 hours, the reaction was evaporated in vacuo and the residue was partitioned between dichloromethane and aqueous sodium hydrogen sulfate (1N). After separating the phases, the aqueous layer was extracted with dichloromethane. The combined organic phases were dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue was purified on flash grade silica gel eluting with 3:2 ethyl acetate : hexane. Fractions containing the product were combined, evaporated in vacuo, and dried under high vacuum to provide (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[{[4-(benzyloxy)phenyl]sulfonyl}(1-ethylpropoxy)amino]-2-hydroxypropylcarbamate (235 mg, 74%) as a foam. H1-NMR (chloroform-D3): 0.94 (m, 6H), 1.62 (m, 7H), 3.05 (m, 5H), 3.74 (m, 2H), 3.98 (m, 4H), 4.18 (m, 1H), 4.88 (d, 1H), 5.08 (m, 1H), 5.19 (s, 2H), 5.70 (d, 1H), 7.13 (d, 2H), 7.34 (m, 10H), 7.80 (d, 2H). MS(ESI): 691(M+Na).

reactant | (3R,3aS, 6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[(l-ethylpropoxy)amino]-2-hydroxypropylcarbamate | 0.474 mmol, 200 mg | C(C1=CC=CC=C1)[C@@H]([C@@H](CNOC(CC)CC)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C22H34N2O6
reactant | 4-benzyloxybenzenesulphonyl chloride | 0.474 mmol, 134 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO3S
reactant | diisoproylethylamine | 0.474 mmol, 0.083 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | dimethylaminopyridine | 1 mg | CN(C)C1=NC=CC=C1 | C7H10N2
catalyst | dimethylaminopyridine | ˜2 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[{[4-(benzyloxy)phenyl]sulfonyl}(1-ethylpropoxy)amino]-2-hydroxypropylcarbamate | 235 mg, 74% | C(C1=CC=CC=C1)[C@@H]([C@@H](CN(OC(CC)CC)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C35H44N2O9S
